US09238639B2
Ethyl N-((6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetyl)glycinate
To a mixture of (6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetic acid (150 mg) in DMF (dry) (3.0 mL) were added ethyl 2-aminoacetate hydrochloride (57.0 mg), HOBt (71.7 mg), EDCI (102 mg) and triethylamine (0.171 mL). The mixture was stirred at room temperature for 17 h. The mixture was diluted with saturated aqueous NaHCO3 and water. The mixture was extracted with EtOAc. The combined organic layer was washed successively with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was washed with hexane to give the title compound (158 mg).

reactant | (6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetic acid | 150 mg | ClC1=C(COC2=CC3=C(C(=CS3)CC(=O)O)C=C2)C=CC(=C1)Cl | C17H12Cl2O3S
reactant | ethyl 2-aminoacetate hydrochloride | 57.0 mg | Cl.NCC(=O)OCC
reactant | HOBt | 71.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 102 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | triethylamine | 0.171 mL | C(C)N(CC)CC | C6H15N
product | Ethyl N-((6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetyl)glycinate | 158 mg | ClC1=C(COC2=CC3=C(C(=CS3)CC(=O)NCC(=O)OCC)C=C2)C=CC(=C1)Cl | C21H19Cl2NO4S
